US07838521B2
3. 4-((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid
To a solution of 7.6 mmol of 4((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid methyl ester in 100 ml of dioxan a solution of 7.5 ml of 2 molar sodium hydroxide in water is added and the mixture is stirred for 15 h at RT. A solution of 7.5 ml of 2 molar HCl in water is added and the mixture is stirred for 30 min. After concentration under reduced pressure the solid residue is treated with 100 ml of dichloromethane. After filtering the filtrate is concentrated under reduced pressure yielding the title compound as a grayish solid residue. The title compound is stirred up with diethylether, filtered off and dried under reduced pressure yielding the title compound as white powdery solid. M.p. 203-205° C.

reactant | 4((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid methyl ester | 7.6 mmol | COC(C1=CC=C(C=C1)C=1C2=CC(=C(C=C2[C@H]2COCC[C@H]2N1)OCC)OC)=O | C23H25NO5
reactant | sodium hydroxide | 2 molar, 7.5 ml | [OH-].[Na+]
reactant | HCl | 2 molar, 7.5 ml | Cl | ClH
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-((4aR,10aR)-6-Ethoxy-7-methoxy-1,4,4a,10a-tetrahydro-2H-3-oxa-10-aza-phenanthren-9-yl)-benzoic acid | C(C)OC=1C=C2[C@H]3COCC[C@H]3N=C(C2=CC1OC)C1=CC=C(C(=O)O)C=C1 | C22H23NO5
